US04032525
448 G. of 4-fluoro-phenol and 742 g. of 2-chloro-5-nitro-benzaldehyde are added to a solution of 184 g. of sodium hydroxide in 7.4 liters of water. The mixture is then left to cool to room temperature. The precipitate is removed by filtration, washed carefully with water, and there is obtained 2-(4-fluoro-phenoxy)-5-nitro-benzaldehyde, having a melting point of 125°-126° C.

reactant | 4-fluoro-phenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-chloro-5-nitro-benzaldehyde | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 7.4 liters | O | H2O
product | 2-(4-fluoro-phenoxy)-5-nitro-benzaldehyde | FC1=CC=C(OC2=C(C=O)C=C(C=C2)[N+](=O)[O-])C=C1 | C13H8FNO4
